US06403639B1
Under a nitrogen stream, a solution of 0.50 g of 2,5-di-t-butyl-4-trimethylacetoxyphenol in 3 ml of dimethylformamide was added dropwise into a suspension of 0.08 g of oily sodium hydride in 3 ml of dimethylformamide. After stirring for 30 minutes, 0.19 ml of methallyl chloride was added dropwise and the mixture was stirred for 3 hours and allowed to attain room temperature. After the reaction was quenched with a saturated aqueous ammonium chloride solution, the mixture was extracted with water and n-hexane. The organic layers were washed with saturated brine, dried over anhydrous magnesium sulfate and then concentrated. The concentrate was purified by silica gel column chromatography (in n-hexane containing 1% ethyl acetate) to give 0.48 g of 2,5-di-t-butyl-4-trimethylacetoxy-1-(2-methyl-2-propenyloxy)benzene as a colorless oil (yield 82%).

reactant | 2,5-di-t-butyl-4-trimethylacetoxyphenol | 0.50 g | C(C)(C)(C)C1=C(C=C(C(=C1)OC(C(C)(C)C)=O)C(C)(C)C)O | C19H30O3
reactant | sodium hydride | 0.08 g | [H-].[Na+]
reactant | methallyl chloride | 0.19 ml | C(C(C)=C)Cl | C4H7Cl
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2,5-di-t-butyl-4-trimethylacetoxy-1-(2-methyl-2-propenyloxy)benzene | 0.48 g, yield 82% | C(C)(C)(C)C1=C(C=C(C(=C1)OC(C(C)(C)C)=O)C(C)(C)C)OCC(=C)C | C23H36O3
